Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Code Stroke for left sided numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Historical info obtained patient, husband with the help of a 
___ interpreter. Patient speaks ___ and some ___.

___ F with history of possible mild HTN (per patient told to 
take captopril PRN when anxious or symptomatic), tobacco (10 
cigarettes per day ___ years), LKW 21:00 ___ last night, 
this AM with L sided numbness, taken to ___ where NIHSS 1 
(LLE sensory symptoms) NCHCT no acute process, thereafter 09:30 
while sitting up sensory symptoms progressed to include trunk, 
LUE; at 11:30 while still sitting upright numbness progressed to 
include L face as well as transient L sided weakness, CTA with R 
ICA occlusion. No tPA at ___ given out of window, low 
NIHSS, transferred to ___ for further evaluation and 
management. On arrival to ___, patient ~18hrs from ___. 

Patient reports she awoke at 5AM with LLE numbness/decreased 
sensation, went back to sleep, awoke at 7:30 feeling better, 
thought LLE sensory symptoms gone. Got up to go to work and was 
bending over tying her shoes when again developed LLE decreased 
sensation. As such, went to ___. There NIHSS was 1 for 
LLE
decreased sensation, felt not to be a tPA candidate given out of 
window and low NIHSS. NCHCT there without evidence of obvious 
acute infarct. Recommended inpatient evaluation and MRI. Patient 
reports while there, notably sitting upright throughout per 
patient, around 9:30 AM decreased sensation progressed to 
include LUE and L trunk. Also developed intermittent bilateral 
frontal
squeezing headache. Around 11:30 AM progressed to include the 
left side of the face with numbness/decreased sensation of face, 
arm, leg, at that time also noted by OSH staff to have LUE, LLE 
weakness. At that time obtained CTA head and neck which 
demonstrated "complete occlusion of the right internal carotid
artery from the carotid bifurcation to the clinoid segment, 
beyond which there is reconstitution of flow, presumably from 
left-sided collateralization" as well as "marked attenuation of 
the distal left internal carotid artery and proximal left middle 
cerebral and anterior cerebral arteries (2:270).  Findings may 
be due to vascular spasm or underlying left-sided Moyamoya 
disease."
Also noted <3mm ACOM aneurysm (initial read lists as 3cm but 
corrected to <3mm on addendum). Decision was made to transfer to 
___ for further evaluation and management. 

___ Labs/Diagnostic studies: 
140  103  20 
---------------<130
4.1  23   0.86
Ca 9.4 

5.22 > 13.7/39.6 <  MCV 95.0

AST 25
ALT 42
AP 61
TPro 8.1
Albumin 3.9
TBili 0.22

PTT 29.4
INR 1.0
TROPT < 0.010  

EKG:
 Heart Rate: 100
 RR Interval: 600
 P-R Interval: 141
 QRSD Interval: 93
 QT Interval: 353
 QTC Interval: 456
 P Axis: 68
 QRS Axis: 47
 T Wave Axis: 30
 EKG Severity - BORDERLINE ECG -
 EKG Impression: Sinus tachycardia
 EKG Impression: Probable left atrial
 enlargement
 EKG Impression: RSR' in V1 or V2, probably
 normal variant
  
 EKG Impression: ST elev, probable normal
 early repol pattern
 EKG Impression: Baseline wander in lead(s)
 V1,V2,V3,V4,V5
 Unconfirmed Diagnosis
 
 
On arrival to ___ VS were T: 98.5 °F (36.9 °C),
Pulse 84, BP: 156/76, MAP: 102.7 mm Hg, RR: 16, O2 sat: 100% RA,
Pain: 0.

At time of arrival, patient was awake, alert, coherent. Speaking 
in ___ and some ___ without difficulty or dysarthria, 
reporting LLE numbness but otherwise no ongoing numbness, no 
ongoing weakness. Did have mild frontal HA (pressure). As above, 
notes that sitting up straight she noted that sensory changes 
progressively included first her LLE, the LUE and trunk, then
face over the course of about 6 hours, then with some transient 
weakness around 11:30 ___. 

Patient does report recent congestion, cough (on top of baseline 
cough she reports she has from smoking), transient fever about 
___ days ago. Currently has an oral herpes lesion which she 
reports she will get on occasion when ill. 

On neuro ROS, the pt denies loss of vision, blurred vision, 
diplopia, dysarthria, dysphagia, lightheadedness, vertigo, 
tinnitus or hearing difficulty. Denies difficulties producing or 
comprehending speech.  Denies bowel or bladder incontinence or 
retention. Denies difficulty with gait. Denies saddle 
anesthesia.

On general review of systems, the pt denies as above reports 
fever, cough. Denies shortness of breath.  Denies chest pain or 
tightness, palpitations.  Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain.  No recent change in bowel or 
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
Denies rash apart from lip with herpetic. Denies recent bites or 
time in the woods. 
 
Past Medical History:
- Bulging cervical disc about ___ years ago
- Hypertension - reports was given captopril in ___ some time
ago to take as a PRN for anxiety/palpitations/hypertension
 
Social History:
___
Family History:
Father with MI at age ___. No family history of strokes, DVTs, 
PEs, vasculitis, autoimmune disease (went through lupus, MG, 
thyroid, DMI, vitiligo, RA), connective tissue disease, 
aneurysms, seizures.
 
Physical Exam:
ON ADMISSION:
Vitals: T: 98.5 HR: 93 R: 15  BP: 160/92 SaO2: 100%
General: Awake, cooperative, NAD.
HEENT: AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty (either in ___ or ___. Attentive,
able to name ___ backward in ___ without difficulty
(interpreter not available at the time of ___. Language is
fluent with intact repetition and comprehension (when examiner
asks her to say "It's a sunny day in ___ laughs and says 
"but
it isn't a sunny day in ___ then repeats after examiner
"It's a rainy day in ___ without difficulty). Normal 
prosody.
There were no paraphasic errors. Pt was able to name both high
and low frequency objects.  Able to read without difficulty.
Speech was not dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves: PERRL 3 to 2mm and brisk. EOMI without
nystagmus.  VFF to confrontation. Facial sensation intact to
light touch bilaterally without asymmetry. No facial droop,
facial musculature symmetric with symmetric smile, cheek puff,
grimace, and forced eye closure. Hearing intact to finger-rub
bilaterally. Palate elevates symmetrically with uvula midline.
___ strength in trapezii and SCM bilaterally. Tongue protrudes 
in
midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: Reports relatively decreased (but not absent) 
sensation
in LLE to LT, pinprick. With eyes closed at first has extinction
to DSS on LLE. Grossly intact to LT, pinprick in bilateral UE
without extinction to DSS. Notably, after putting HOB down after
initial code stroke examination, reviewing images and discussing
with stroke fellow, repeated sensory testing (about 20 minutes
later), at that time patient with ongoing decreased sensation in
LLE but no longer with extinction to DSS. 

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Crossed adductors bilaterally. Plantar response was flexor
bilaterally. No clonus. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Deferred given concern for positional nature.
_______________________________________________________
Discharge Exam:

Mental status and cranial nerve exam are normal. She has 
agraphesthesia in the left hand. Left IP and hamstring are 4+/5 
strength; otherwise her strength is full.
 
Pertinent Results:
ADMISSION LABS:
___ 09:40PM   PTT-39.3*
___ 03:33PM   CREAT-0.9
___ 03:33PM   estGFR-Using this
___ 03:31PM   GLUCOSE-108* NA+-142 K+-4.0 CL--106 TCO2-24
___ 03:25PM   UREA N-15
___ 03:25PM   WBC-6.3 RBC-4.02 HGB-12.9 HCT-39.2 MCV-98 
MCH-32.1* MCHC-32.9 RDW-12.6 RDWSD-45.4
___ 03:25PM   PLT COUNT-290
___ 03:25PM   ___ PTT-25.0 ___

PERTINENT LABS:
___ 05:40AM BLOOD WBC-5.2 RBC-3.06* Hgb-10.2* Hct-30.5* 
MCV-100* MCH-33.3* MCHC-33.4 RDW-12.7 RDWSD-45.5 Plt ___
___ 04:55AM BLOOD Neuts-72* Bands-2 Lymphs-18* Monos-5 
Eos-3 Baso-0 ___ Myelos-0 AbsNeut-4.29 AbsLymp-1.04* 
AbsMono-0.29 AbsEos-0.17 AbsBaso-0.00*
___ 04:55AM BLOOD Hypochr-OCCASIONAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Ovalocy-OCCASIONAL
___ 01:36AM BLOOD ___ PTT-27.2 ___
___ 05:40AM BLOOD Glucose-80 UreaN-10 Creat-0.8 Na-138 
K-4.3 Cl-104 HCO3-21* AnGap-17
___ 04:21AM BLOOD ALT-31 AST-18 LD(LDH)-118 CK(CPK)-30 
AlkPhos-42 TotBili-0.4
___ 04:21AM BLOOD GGT-11
___ 04:21AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 05:40AM BLOOD Calcium-8.9 Phos-4.5 Mg-1.8
___ 04:21AM BLOOD %HbA1c-5.7 eAG-117
___ 04:21AM BLOOD Triglyc-172* HDL-45 CHOL/HD-6.4 
LDLcalc-208*
___ 04:21AM BLOOD TSH-1.1
___ 04:21AM BLOOD CRP-2.1

IMAGING:
EKG ___:
Sinus rhythm. Within normal limits. No previous tracing 
available for 
comparison.   
  Intervals     Axes 
Rate PR QRS QT  QTc (___)    P QRS T 
95  144 97  ___                64 22 28 
 
MRI Brain ___:
"IMPRESSION:   
1. Acute to subacute areas of infarction are seen within the 
right frontal and parietal lobes.  No acute intracranial 
hemorrhage is identified."

TTE ___:
"Conclusions   
 The left atrial volume index is normal. No atrial septal defect 
or patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Normal left ventricular wall thickness, 
cavity size, and regional/global systolic function (biplane LVEF 
= 63%). Right ventricular chamber size and free wall motion are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. 
 IMPRESSION: No ASD or PFO. Normal global and ___ 
biventricular systolic function."

CAROTID DOPPLERS ___:
"IMPRESSION:    
1.  Complete occlusion of the right internal carotid artery 
2.  Less than 50% stenosis of the left internal carotid artery 
by ultrasound however the CTA from ___ provides better 
delineation of the anatomy.  Please see report of the CTA for 
complete details."

MRA NECK (WITH FAT SATS) ___:
"IMPRESSION:   
1. No eccentric T1 hyperintense signal along the course of the 
right internal carotid artery to suggest dissection or mural 
thrombus. 
2. As described on prior CTA head and neck, there is diffuse 
narrowing of the left cervical internal carotid artery, without 
stenosis by NASCET criteria.  Narrowing of the left A1 and M1 
segments is re-identified, better described on CTA head of ___, which may represent ___ syndrome. 
3. Re-identified is an a 3 mm left anterior communicating artery 
complex 
outpouching, potentially representing an aneurysm.  Close 
attention on 
follow-up is advised to document stability. 
4. Enlarged axillary and prominent cervical lymph nodes, which 
may be 
reactive.  Clinical correlation is recommended."

___ ___:
"IMPRESSION:   
1. Right frontal periventricular white matter hypodensity 
abutting the genu of the right corpus callosum is new since MRI 
from ___, but similar in density to the subacute 
infarcts in the right superior frontal gyrus and right 
postcentral gyrus which were seen on the ___ MRI.  
Therefore, the new right frontal periventricular infarction is 
likely subacute, probably occurring shortly after ___.  However, it would better dated by MRI. 
2. No acute hemorrhage."

MRI BRAIN ___:
"IMPRESSION: 
1. Areas of acute to subacute right frontoparietal infarct in 
the MCA and ACA territory have increased compared to the prior 
examination from ___, as described.  The new areas 
of infarction appear to involve a watershed territory while the 
previously seen infarcts appeared thromboembolic. 
2. Punctate areas of slow diffusion in the right parietal lobe 
and right 
caudate head have evolved and are no longer well seen. 
3. No hemorrhage. 
4. Loss of the proximal right ICA flow void corresponding to 
known occlusion."

Selected CXR ___:
" IMPRESSION:  
Comparison to ___.  In the interval, a new left 
lower lobe 
retrocardiac parenchymal opacity has developed, the opacities 
ill-defined and shows air bronchograms.  The opacities likely to 
reflect pneumonia."

SELECTED MICROBIOLOGY:
___ 2:18 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 2:18 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Ms. ___ is a ___ female smoker with HTN who was 
admitted to the Neurology stroke service with a stroke.

# ACUTE ISCHEMIC STROKE:
She presented with left sided weakness and sensory changes 
secondary to an acute ischemic stroke in the right hemisphere in 
the setting of a right ICA occlusion. Additionally, imaging of 
her brain is suggestive of left-sided ___ placing her at 
increased risk of vascular insult in the future. She had 
position dependent symptoms while in the hospital and had 
additional watershed infarct in the right internal carotid 
artery territory, requiring transfer to the ICU and pressors to 
increase cerebral perfusion (see below). She was ultimately 
weaned off the pressors, slowly weaned off bedrest, and 
ultimately did well. She was started on midodrine to promote 
cerebral perfusion. She was started on dual antiplatelet therapy 
with aspirin and Plavix given her significant intracranial 
atherosclerosis; she will take both for three months then d/c 
Plavix but take ASA indefinitely. Etiology of her carotid 
occlusion is presumed atherosclerosis - no dissection was seen 
and no cardioembolic source was found. The DDx also includes 
vasculopathy but she had no elevation of ESR and CRP to support 
vasculitis diagnosis and normal renal artery u/s speaks against 
fibromuscluar dysplasia. 

# HOSPITAL ACQUIRED PNEUMONIA: She had cough at presentation 
though admission CXR was unremarkable. Later, she developed a 
fever and CXR was repeated which showed a new opacity consistent 
with pneumonia. She was treated for hospital acquired pneumonia 
with Cefepime and Vancomycin (___) and then was narrowed 
to Ceftriaxone (___).

# HYPERLIPIDEMIA: LDL was elevated to 208. She was started on 
atorvastatin.

# ICU COURSE ___
On ___, the pt's husband reported that she had a difficult 
time ambulating to the bathroom in the morning.  Upon exam soon 
after, she was noted to have left sided hemiplegia and left 
sided neglect, so a STAT NCHCT was completed that showed a new 
right ___ hypodensity near the genu of the corpus 
callosum suggestive of a new infarct and repeat brain MRI showed 
extension of her infarcts. As a result, she was transferred to 
the ICU (___) for vasopressor support and close 
monitoring. During this time, ___ was kept flat and pt received 
IVFs and Phenylephrine to increase SBP to prevent flow-dependent 
ischemia. Patient was started on Midodrine for further blood 
pressure control as well as Atorvastatin. She was seen to have 
improved strength in LUE/LLE and ultimately recovered to her 
recent baseline with mild L sided sensory-motor deficit. She was 
weaned off vasopressors and transferred out of ICU. 

___________________________________________________
___________________________________________________
Transitional Issues:
- Began aspirin and Plavix x 3 months. After 3 months, tentative 
plan is to discontinue Plavix and continue ASA indefinitely.
- Began midodrine: BP should be monitored outpatient - patient 
is at risk for supine HTN with this medication

___________________________________________________
___________________________________________________

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 208) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. perindopril-amlodipine ___ mg oral DAILY:PRN 
2. Captopril 50 mg PO DAILY:PRN hypertension 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*1 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*1 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
4.  Midodrine 20 mg PO TID 
Take 20 mg (1 tab) three times per day until instructed by your 
doctor to stop.  
RX *midodrine 10 mg 2 tablet(s) by mouth three times a day Disp 
#*180 Tablet Refills:*1 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right frontal and parietal ischemic stroke
Right internal carotid artery occlusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

___ were hospitalized due to symptoms of left leg weakness and 
left-sided numbness resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms. 
 
Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- High blood pressure
- smoking
- high cholesterol 

We are changing your medications as follows:  
- Begin Atorvastatin 40mg daily
- STOP taking captopril 
- Begin Aspirin 81 mg daily
- Begin Clopidogrel 75 mg daily ___ will take this for 3 
months, then discontinue)

Please take your other medications as prescribed.  

It is very important that ___ STOP smoking.

Please followup with Neurology and your primary care physician 
as listed below.  

 
Followup Instructions:
___